US04259238
3-[[(N-(5,5-dimethyl-1-pyrrolin-2-yl)anilino]methyl]indole hydrochloride
Phosphorus oxychloride (7.67 g., 0.05 mole) in 20 ml. of 1,2-dichloroethane is added rapidly to 3-(anilinomethyl)indole (11.1 g., 0.05 mole), 5,5-dimethyl-2-pyrrolidinone (5.66 g., 0.05 mole) and triethylamine (5.06 g., 0.05 mole) in 80 ml. of 1,2-dichloroethane at ice bath temperature. After stirring the mixture for about 15 min., the ice bath is removed and stirring continued at room temperature for 16 hr. Workup of the reaction mixture is as follows. The mixture is quenched in 100 ml. of 10% sodium hydroxide and crushed ice and the organic layer separated. The organic layer is extracted with 100 ml. of 1.5 N hydrochloric acid and then with 100 ml. of water. After washing the combined extracts with ether and making basic with 10% sodium hydroxide, a solid precipitates which is collected and crystallized from ethyl acetate, yield 3.2 g., m.p. 124°-126° C. of free base product. The dichloroethane fraction is dried over magnesium sulfate and concentrated in vacuum and the residue (10.4 g.) triturated with water and filtered. The aqueous filtrate is made basic with sodium hydroxide providing a second free base fraction, yield 3.1 g., m.p. 125°-127° C. The two free base fractions are combined, dissolved in ethanol and treated with ethanolic hydrogen chloride affording 3.7 g., m.p. 185°-185.5° C. (dec.) (corr.) of analytically pure 3-[[(N-(5,5-dimethyl-1-pyrrolin- 2-yl)anilino]methyl]indole hydrochloride.

reactant | Phosphorus oxychloride | 0.05 mole, 7.67 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(anilinomethyl)indole | 0.05 mole, 11.1 g | N(C1=CC=CC=C1)CC1=CNC2=CC=CC=C12 | C15H14N2
reactant | 5,5-dimethyl-2-pyrrolidinone | 0.05 mole, 5.66 g | CC1(CCC(N1)=O)C | C6H11NO
reactant | triethylamine | 0.05 mole, 5.06 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | [(N-(5,5-dimethyl-1-pyrrolin-2-yl)anilino]methyl]indole hydrochloride | Cl.CC1(CCC(=N1)N(C1=CC=CC=C1)CC=1NC2=CC=CC=C2C1)C | InChI=1S/C21H23N3.ClH/c1-21(2)13-12-20(23-21)24(18-9-4-3-5-10-18)15-17-14-16-8-6-7-11-19(16)22-17;/h3-11,14,22H,12-13,15H2,1-2H3;1H
